US04847269
1-(2-hydroxy-5-[2-(1-piperidyl)ethyl]phenyl)-3-methylurea.
1-(2-hydroxy-5-[2-(3,5-dimethyl-1-piperidyl)ethyl]phenyl-3-methylurea.HBr;

reactant | 2-hydroxy-5-[2-(3,5-dimethyl-1-piperidyl)ethyl]phenyl-3-methylurea | OC1=C(C=C(C=C1)CCN1CC(CC(C1)C)C)NC(=O)NC | C17H27N3O2
reactant | HBr | Br | BrH
product | 1-(2-hydroxy-5-[2-(1-piperidyl)ethyl]phenyl)-3-methylurea | OC1=C(C=C(C=C1)CCN1CCCCC1)NC(=O)NC | C15H23N3O2
